US05091378
Reference: J. Organomet. Chem., 20 (1969) p. 251-252.n-BuLi (208.60 mmol, 83.44 ml of a 2.5 M solution in hexane, Aldrich) was stirred under argon in 42 ml of dry cyclohexane. This solution was cooled to 0° C. and treated dropwise (10 min.) with distilled tetramethylethylenediamine (TMEDA) (208.6 mmol, 24.24 g, 31.48 ml). The resulting slurry was stirred at 0° C. for 30 minutes, then treated dropwise (20 minutes) with a solution of 1-methoxynaphthalene (208.60 mmol, 33 g, 30.28 ml) (Aldrich Chem. Co., used without: further purification) in 84 ml of dry cyclohexane. The resulting bright red homogeneous reaction mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was cooled to 0° C. and added portionwise over 30 minutes via cannula to a -78° C. solution of dry Et2O (250 ml) saturated with CO2 (g) (CO2 pellets sublimed through drying tube containing SiO2, bubbled into dry Et2O at -78° C.). The resulting white slurry was warmed to ~0° over 45 minutes and then treated with 450 ml of 5% HCl (aqueous). The Et2O layer was separated and the aqueous layer extracted three times with Et2O. The organic extracts were combined and extracted with 3×150 ml saturated NaHCO3 (aqueous). The aqueous layer was filtered through a sintered glass funnel to remove insolubles and the filtrate was cooled to 0° C. and acidified slowly with concentrated HCl until pH=1. The resulting precipitate was filtered, azeotroped with 2× 150 ml of toluene, dried under high vacuum at 50° C. for 5 hours to afford 32.52 g (0.161 mol, 77% yield) of the 1-methoxy-2-naphthalene carboxylic acid as an off-white powder, m.p. 118°-121.5° C.

reactant | n-BuLi | [Li]CCCC
reactant | tetramethylethylenediamine | 208.6 mmol, 31.48 ml, 24.24 g | CN(CCN(C)C)C | C6H16N2
reactant | 1-methoxynaphthalene | 208.60 mmol, 30.28 ml, 33 g | COC1=CC=CC2=CC=CC=C12 | C11H10O
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 450 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | 42 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 84 ml | C1CCCCC1 | C6H12
solvent | Et2O | 250 ml | CCOCC | C4H10O
product | 1-methoxy-2-naphthalene carboxylic acid | 0.161 mol, 32.52 g, 77% yield | COC1=C(C=CC2=CC=CC=C12)C(=O)O | C12H10O3
